US09193695B2
2-(4-Nitrophenyl)ethyl methanesulfonate
Under a nitrogen atmosphere, MsCl (13.9 mL) was dropwise added to a suspension of 2-(4-nitrophenyl)ethanol (25.0 g) and Et3N (31.3 mL) in CHCl3 (including amylene, 625 mL) over 10 minutes under ice cooling, followed by stirring at room temperature for 2 hours. A saturated aqueous NaHCO3 solution was added to the reaction solution, and the aqueous layer was extracted with CHCl3. The combined organic layer was dried over MgSO4, and then the desiccant was removed by filtration. The filtrate was concentrated under reduced pressure to yield the title compound (41.8 g, light yellow solid).

reactant | MsCl | 13.9 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(4-nitrophenyl)ethanol | 25.0 g | [N+](=O)([O-])C1=CC=C(C=C1)CCO | C8H9NO3
reactant | Et3N | 31.3 mL | CCN(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 625 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Nitrophenyl)ethyl methanesulfonate | 41.8 g | CS(=O)(=O)OCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H11NO5S
